US04292317
As described in Example 1, 4.3 g of 6,7-dichloro-1-ethyl-4-oxo-1,4-dihydro-3-quinoline-carboxylic acid and 10.6 g of 1-(β-hydroxyethyl)-piperazine in 45 cm3 of DMSO (dimethylsulphoxide) were heated for 3 hours at 110° C. After evaporation of the solvent under a good vacuum, the viscous residue was taken up in 20 cm3 of isopropanol; the mixture was stirred and heated under reflux for 20 minutes. After standing for one night at 4° C., the solid was filtered off, washed with ethanol and recrystallised from methyl cellosolve (15 cm3). 3.5 g of 6-chloro-1-ethyl-7-[4-(β-hydroxyethyl)-piperazinyl]-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 215° C., were obtained.

reactant | 6,7-dichloro-1-ethyl-4-oxo-1,4-dihydro-3-quinoline-carboxylic acid | 4.3 g | ClC=1C=C2C(C(=CN(C2=CC1Cl)CC)C(=O)O)=O | C12H9Cl2NO3
reactant | 1-(β-hydroxyethyl)-piperazine | 10.6 g | OCCN1CCNCC1 | C6H14N2O
solvent | DMSO | 45 cm3 | CS(=O)C | C2H6OS
product | 6-chloro-1-ethyl-7-[4-(β-hydroxyethyl)-piperazinyl]-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 3.5 g | ClC=1C=C2C(C(=CN(C2=CC1N1CCN(CC1)CCO)CC)C(=O)O)=O | C18H22ClN3O4
